US06063734
0.72 g of 4-cyanomethyl-2-phenylthiazole was dissolved in 10 ml of dry THF, and 4.6 ml of n-butyl lithium (1.56 M hexane solution) was dropwise added thereto at -60° C. or lower in an argon atmosphere. After the resulting product was stirred at -60° C. or lower for 20 minutes, 0.84 g of 1-methyl-3,5-dichloropyrazole-4-carbonyl chloride as dissolved in 3 ml of dry THF was dropwise added thereto at -60° C. or lower. Then, the resulting product was gradually heated, and stirred for 4 hours at room temperature. The reaction mixture was poured into ice water, acidified with diluted hydrochloric acid, extracted with ethyl acetate, and washed with saturated saline. The resulting product was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residual product was purified through silica gel column chromatography to obtain the intended product from the fraction eluted with chloroform. The resulting product was crystallized and washed with diethyl ether to obtain 0.86 g of 3-(1-methyl-3,5-dichloropyrazol-4-yl)-2-(2-phenylthiazol-4-yl)-3-hydroxyacrylonitrile.

reactant | 4-cyanomethyl-2-phenylthiazole | 0.72 g | C(#N)CC=1N=C(SC1)C1=CC=CC=C1 | C11H8N2S
reactant | n-butyl lithium | 1.56 M, 4.6 ml | C(CCC)[Li]
reactant | 1-methyl-3,5-dichloropyrazole-4-carbonyl chloride | 0.84 g | CN1N=C(C(=C1Cl)C(=O)Cl)Cl | C5H3Cl3N2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(1-methyl-3,5-dichloropyrazol-4-yl)-2-(2-phenylthiazol-4-yl)-3-hydroxyacrylonitrile | 0.86 g | CN1N=C(C(=C1Cl)C(=C(C#N)C=1N=C(SC1)C1=CC=CC=C1)O)Cl | C16H10Cl2N4OS
